US09029536B2
3,3′-Benzene-1,4-diylbis(1-ethyl-1H-pyrazolo[4,3-b]pyridine)
A mixture of 1,4-phenylenediboronic acid (37.0 mg), 3-bromo-1-ethyl-1H-pyrazolo[4,3-b]pyridine (101 mg), Pd(PPh3)4 (25.8 mg) and Cs2CO3 (0.280 g) in DME/water (3/1, 4 mL) was exposed to microwave irradiation (120° C., 40 min), treated with water, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane). Crystallization from AcOEt/hexane gave the title compound (6.00 mg).

reactant | 1,4-phenylenediboronic acid | 37.0 mg | C1(=CC=C(C=C1)B(O)O)B(O)O | C6H8B2O4
reactant | 3-bromo-1-ethyl-1H-pyrazolo[4,3-b]pyridine | 101 mg | BrC1=NN(C=2C1=NC=CC2)CC | C8H8BrN3
reactant | Cs2CO3 | 0.280 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DME water | 4 mL | COCCOC.O
catalyst | Pd(PPh3)4 | 25.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3,3′-Benzene-1,4-diylbis(1-ethyl-1H-pyrazolo[4,3-b]pyridine) | 6.00 mg | C1(=CC=C(C=C1)C1=NN(C=2C1=NC=CC2)CC)C2=NN(C=1C2=NC=CC1)CC | C22H20N6
